US06110929
Under a nitrogen atmosphere, triethylamine (0.71 mL, 5.1 mmol) was added to a suspension of 3-amino-7-methyl-4-quinolinol (800 mg, 4.6 mmol) in dichloromethane (30 mL). Butyryl chloride (0.53 mL, 5.1 mmol) was added. The reaction mixture was stirred at ambient temperature for about 2 hours. Analysis by thin layer chromatography (silica gel eluting with 9:1 dichloromethane:methanol) showed starting material. The reaction mixture was heated to reflux and then inadvertently allowed to go dry over the course of about 30 minutes. More solvent was added and the reaction mixture was heated at reflux for an additional hour at which time thin layer chromatography showed no starting material. The resulting precipitate was isolated by filtration and then rinsed with dichloromethane and water to provide 650 mg of N-(4-hydroxy-7-methylquinolin-4-yl)butyramide as a pale pink-tan solid.

reactant | triethylamine | 5.1 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-7-methyl-4-quinolinol | 4.6 mmol, 800 mg | NC=1C=NC2=CC(=CC=C2C1O)C | C10H10N2O
reactant | Butyryl chloride | 5.1 mmol, 0.53 mL | C(CCC)(=O)Cl | C4H7ClO
reactant | methanol | CO | CH4O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(4-hydroxy-7-methylquinolin-4-yl)butyramide | 650 mg | OC1(CC=NC2=CC(=CC=C12)C)NC(CCC)=O | C14H18N2O2
